US07608718B2
Part A: To a stirred solution of (piperidin-1-yl)sulfonyl isothiocyanate (54.77 g, 266 mmol) in dry dichloromethane (900 mL) in a nitrogen atmosphere is added 3-(4-chlorophenyl)-4-phenyl-4,5-dihydro-1H-pyrazole (68.3 gram, 266 mmol). After stirring for 16 hours an additional amount of dichloromethane is added. The resulting solution is twice washed with water, dried over Na2SO4, and concentrated in vacuo. After addition of MTBE, the residue crystallizes. The crystalline material is collected and washed with MTBE to give 3-(4-chlorophenyl)-4-phenyl-N-((piperidin-1-yl)sulfonyl)-4,5-dihydro-1H-pyrazole-1-thiocarboxamide (77.6 gram, 63% yield).

reactant | (piperidin-1-yl)sulfonyl isothiocyanate | 266 mmol, 54.77 g | N1(CCCCC1)S(=O)(=O)N=C=S | C6H10N2O2S2
reactant | 3-(4-chlorophenyl)-4-phenyl-4,5-dihydro-1H-pyrazole | 266 mmol, 68.3 gram | ClC1=CC=C(C=C1)C1=NNCC1C1=CC=CC=C1 | C15H13ClN2
solvent | dichloromethane | 900 mL | ClCCl | CH2Cl2
product | 3-(4-chlorophenyl)-4-phenyl-N-((piperidin-1-yl)sulfonyl)-4,5-dihydro-1H-pyrazole-1-thiocarboxamide | 77.6 gram, 63% yield | ClC1=CC=C(C=C1)C1=NN(CC1C1=CC=CC=C1)C(NS(=O)(=O)N1CCCCC1)=S | C21H23ClN4O2S2
